US03997669
Moreover, the 4-fluoro-phenyl-acetonitrile can be reacted with 4-oxo-piperidine, to yield the 4-(4-oxo-piperidino)-phenyl-acetonitrile, which can be hydrolyzed to the free acid and the acid esterified, or the ethyl α-(3-chloro-4-aminophenyl)-propionate reacted with 4-oxo-2,5-heptadienedioic acid diethyl ester, saponifying and decarboxylating the reaction product, to yield the α-[3-chloro-4-(4-oxo-piperidino)-phenyl]-propionic acid. In corresponding esters, the carbonyl group can be reduced with one equivalent of Grignard compounds, e.g. methyl-, ethyl-, n-propyl-, phenyl- or 4-chlorophenyl-magnesium bromide, to yield, inter alia, the ethyl 4-[4-hydroxy-4-(methyl, ethyl, n-propyl, phenyl or 4-chlorophenyl)-piperidino]-phenyl acetate or α-[3-chloro-4-(4-hydroxy-4-methylpiperidino)-phenyl]-propionate. Said esters or the corresponding acids can be dehydrated wtih sulfuric or phosphoric acid, to yield, for example, the 4-(3-n-propyl-pent-2-enyleneimino)-phenylacetic acid or the α-[3-chloro-4-(3-methylpent-2-enyleneimino)-phenyl]-phenyl]-propionic acid.

reactant | ethyl α-(3-chloro-4-aminophenyl)-propionate | ClC=1C=C(C=CC1N)C(C(=O)OCC)C | C11H14ClNO2
reactant | 4-oxo-2,5-heptadienedioic acid diethyl ester | C(C)OC(C=CC(C=CC(=O)OCC)=O)=O | C11H14O5
product | α-[3-chloro-4-(4-oxo-piperidino)-phenyl]-propionic acid | ClC=1C=C(C=CC1N1CCC(CC1)=O)C(C(=O)O)C | C14H16ClNO3
